US07851493B2
To a solution of 1.05 g of 4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-N-hydroxy-2-methoxy-benzamidine in 5 mL of tetrahydrofuran were added 254 μL of phenyl chloroformate and 607 μL of diisopropylethylamine. The resulting mixture was heated to 150° C. under microwave irradiation for 20 minutes. After allowing it to cool down to room temperature, the mixture was concentrated under reduced pressure and dichloromethane/water were added to the residue. The organic layer was separated and the aqueous layer extracted three times with dichloromethane. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Diisopropyl ether was added to the residue and the solid was collected by filtration and washed with diisopropyl ether to give 558 mg of 3-{4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one.

reactant | 4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-N-hydroxy-2-methoxy-benzamidine | 1.05 g | C(C1=CC=CC=C1)OCCCC=1N=C(SC1COC1=CC(=C(C(=N)NO)C=C1)OC)C1=CC=C(C=C1)C(F)(F)F | C29H28F3N3O4S
reactant | phenyl chloroformate | 254 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | diisopropylethylamine | 607 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-{4-[4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one | 558 mg | C(C1=CC=CC=C1)OCCCC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)OC)C1=CC=C(C=C1)C(F)(F)F | C30H26F3N3O5S
